US04357342
A mixture of 4-(2-acetoxyvinyl)-azetidin-2-one (3.00 g), 10% Pd/C (0.15 g) and ethylacetate(EtOAc)(120 ml) is hydrogenated in a 500 ml glass bomb on a Parr shaker at an initial pressure of 39 psi. After shaking 10 mins (final pressure of 20 psi), the mixture is filtered through a pad of MgSO4 to remove the catalyst. The filtrate is concentrated in vacuo and the residue stripped with anhydrous benzene to provide 4-(2-acetoxyethyl)-azetidin-2-one (3.098 g) as a clear oil: ir(neat) 3.01, 5.66, 5.75, 7.28, 8.05, and 9.61 cm-1 ; nmr(CDCl3)δ 1.95 (m, 2), 2.07 (s,3), 2.60 (m, 1), 3.12 (m, 1), 3.70 (m, 1), 4.15 (m, 2), and 6.77 (br s, 1).

reactant | 4-(2-acetoxyvinyl)-azetidin-2-one | 3.00 g | C(C)(=O)OC=CC1CC(N1)=O | C7H9NO3
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 4-(2-acetoxyethyl)-azetidin-2-one | 3.098 g | C(C)(=O)OCCC1CC(N1)=O | C7H11NO3
